US07112589B2
A solution of 1.47 g (15.77 mmol) (5-azidomethyl-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine and 1.67 g (6.35 mmol) of triphenylphosphine in 20 ml of THF and 0.08 ml of H2O is stirred at r.t. for 24 h. Then the solvent is removed and the residue dissolved in 40 ml EtOH and 17 ml NH3 (25%). This reaction mixture is stirred for 48 h at r.t. and again the solvent is removed. The residue is dissolved in diethylether and twice extracted with 25 ml of 1N HCl. Both acidic extracts were combined and once more extracted with diethylether, then the acidic layer is evaporated under vacuo. The solid residue was triturated with diethylether yielding (5-Aminomethyl-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine 2HCl as slightly yellow crystalls.

reactant | (5-azidomethyl-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine | 15.77 mmol, 1.47 g | N(=[N+]=[N-])CC=1C(=NC(=NC1)Cl)NCC(C)(C)C | C10H15ClN6
reactant | triphenylphosphine | 6.35 mmol, 1.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.08 ml | O | H2O
product | (5-Aminomethyl-2-chloro-pyrimidin-4-yl)-(2,2-dimethyl-propyl)-amine 2HCl | Cl.Cl.NCC=1C(=NC(=NC1)Cl)NCC(C)(C)C | InChI=1S/C10H17ClN4.2ClH/c1-10(2,3)6-14-8-7(4-12)5-13-9(11)15-8;;/h5H,4,6,12H2,1-3H3,(H,13,14,15);2*1H
